US07279487B2
Step 7: Preparation of 1-benzyl-4-(benzyloxy)-2-oxo-1,2-dihydro-1,5-naphthyridine-3-carboxylic acid
To a solution of methyl 1-benzyl-4-(benzyloxy)-2-oxo-1,2-dihydro-1,5naphthyridine-3-carboxylate (0.65 g, 1.62 mmol) in THF (20 mL) was added sodium hydroxide (16.2 mL, 1 N) and the solution was heated to 80° C. and after 1.5 hours the reaction was completed. The reaction was allowed to cool and then the THF was removed leaving the product in water. The water was acidified with 1N HCl to adjust the pH to 3 and the resulting crude solids were collected by vacuum filtration and taken on as is.

reactant | methyl 1-benzyl-4-(benzyloxy)-2-oxo-1,2-dihydro-1,5naphthyridine-3-carboxylate | 1.62 mmol, 0.65 g | C(C1=CC=CC=C1)N1C(C(=C(C2=NC=CC=C12)OCC1=CC=CC=C1)C(=O)OC)=O | C24H20N2O4
reactant | sodium hydroxide | 1 N, 16.2 mL | [OH-].[Na+]
reactant | water | O | H2O
reactant | HCl | 1N | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-benzyl-4-(benzyloxy)-2-oxo-1,2-dihydro-1,5-naphthyridine-3-carboxylic acid | C(C1=CC=CC=C1)N1C(C(=C(C2=NC=CC=C12)OCC1=CC=CC=C1)C(=O)O)=O | C23H18N2O4
